US05811432
A solution of t-butyl (3-nitro-6-phenylthio-2-pyridyl)acetate (1.04 g, 3.0 mmol) in glacial acetic acid containing iron powder (600 mg, 10.7 mmol) was heated at reflux for 5 hours. After cooling to room temperature, the mixture was poured into ice/water and extracted with chloroform. The combined chloroform extracts were washed with brine, dried (MgSO4) and concentrated to leave 5-phenylthio-6-azaoxindole as a light yellow solid (560 mg, 77%); m.p. 186°-189° C.

reactant | t-butyl (3-nitro-6-phenylthio-2-pyridyl)acetate | 3.0 mmol, 1.04 g | [N+](=O)([O-])C=1C(=NC(=CC1)SC1=CC=CC=C1)CC(=O)OC(C)(C)C | C17H18N2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
catalyst | iron | 10.7 mmol, 600 mg | [Fe] | Fe
product | 5-phenylthio-6-azaoxindole | 560 mg, 77% | C1(=CC=CC=C1)SC=1C=C2CC(NC2=CN1)=O | C13H10N2OS
